US05008267
(2) Preparation of 4-(3-bromopropyloxy)-3-nitrobenzophenone
4-hydroxy-3-nitrobenzophenone (2.5 g) and 7.1 g of potassium carbonate were suspended in 15 ml methylethylketone. The suspension was stirred under heating with reflux for 30 minutes, added with 1,3-dibromopropane and then heated with reflux for 6 hours. The reaction mixture was cooled down to room temperature, and insoluble substances were removed by filtration. The filtrate was then concentrated, and the resultant precipitate was subjected to silica gel column chromatograph (hexane/ethyl acetate=3.1 (v/v)) for purification; thereby 2.08 g of an oil, 4-(3-bromopropyloxy)-3-nitrobenzophenone, was obtained.

reactant | 4-hydroxy-3-nitrobenzophenone | 2.5 g | OC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C13H9NO4
reactant | potassium carbonate | 7.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
solvent | methylethylketone | 15 ml | CC(=O)CC | C4H8O
product | 4-(3-bromopropyloxy)-3-nitrobenzophenone | 2.08 g | BrCCCOC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C16H14BrNO4
